Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11],-5.8310665331900005
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9]([H:10])[H:11],1.45905119444
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[O:11],3.68759304558
[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:5].[O:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[H:9],1.77374835988
[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])[H:10],3.01134588806
[C:1][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[C:2]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-7.344936561960001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([C:7](=[O:6])[C:8]([H:9])([H:10])[H:11])[H:13]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1[H:13],1.7613827107099995
[H:1][C:2]#[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.00431728371
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[O:11],1.78704748039
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.8590799060709999
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]#[C:6],5.52123042398
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9]1>>[H:1][C:2](=[C:3][H:4])[O:9][C:8]=[C:5]([H:6])[H:7],2.9374419668400003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:5],2.37220889661
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],4.53237982739
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12],1.10268778054
[C:6]([H:7])[O:8][C:9][H:10].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10],-7.71887757634
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],0.812455124271
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.30071707809
[C:6][O:7][H:8].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][O:7][H:8],-4.96064954316
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.6333696311
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:9][H:10].[H:8]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.59271754301
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14],4.81853765429
[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.54205346896
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.4042958456409999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-3.70207164956
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],4.929968676690001
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:1][O:2][C:3][H:4],7.543264462839999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.45154341769
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[O:8].[H:9]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9],-1.55443232961
[C:1]=[C:2]([H:3])[C:4]([O:5][O:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][H:3].[C:4]([O:5][O:6])[C:7]([H:8])[H:9],3.4270644906400003
[C:2]([H:3])#[C:7][C:8]([H:9])[H:10].[O:1][C:5](=[O:4])[H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.47522721018
